### PR TITLE
Bteauto

### PR DESCRIPTION
**Pull request by mattam82**
Backtracking typeclasses eauto based on the new proof engine

https://ci.inria.fr/coq/view/coq-contribs/job/coq-contribs/198/console

### CODE REVIEW

**Comment by mattam82** [comment]
Trying again with an updated math-classes:

https://ci.inria.fr/coq/job/coq-contribs/201/console

File: CHANGES [hunk 1]
```diff
@@ -22,6 +22,13 @@ Tactics
   a locally free identifier anymore. It must use e.g. the "fresh" primitive
   instead (potential source of incompatibilities).
 
+Hints
+
+- Revised the syntax of [Hint Cut] to follow standard notation for regexps.
+- Hint Mode now accepts	"!" which means that the mode matches only if the
```
Comment (silene) [inline CHANGES]: Some stray tabulation here?

File: tactics/class_tactics.ml [hunk 2]
```diff
@@ -798,87 +1408,64 @@ let resolve_all_evars debug m unique env p oevd do_split fail =
...
-    let dbs = List.map_filter
-      (fun db -> try Some (searchtable_map db)
-        with e when Errors.noncritical e -> None)
-      dbs
-    in
-    let st = match dbs with x :: _ -> Hint_db.transparent_state x | _ -> st in
-      eauto ?limit:!typeclasses_depth ~only_classes ~st dbs gl
-   with Not_found -> tclFAIL 0 (str" typeclasses eauto failed on: " ++ Printer.pr_goal gl) gl
+let _ =
+  Typeclasses.solve_instantiation_problem :=
```
Comment (silene) [inline tactics/class_tactics.ml]: This global reference was already set a few lines above. This smells like a bug (either here or above).

File: theories/Numbers/NatInt/NZGcd.v [hunk 3]
```diff
@@ -60,7 +60,9 @@ Proof.
  intros n. exists 0. now nzsimpl.
 Qed.
 
-Hint Rewrite divide_1_l divide_0_r : nz.
+(* MS: These rewrites apply to any subterm of type Z, do not try
+  them automatically *)
+(* Hint Rewrite divide_1_l divide_0_r : nz. *)
```
Comment (silene) [inline theories/Numbers/NatInt/NZGcd.v]: This is surprising. These lemmas are existential lemmas. How could they have been used as rewriting rules? And how come they did apply to any integer? I would have understood if it had been about divide_0_l, but it is not.

File: tactics/class_tactics.ml (hunk 2 above)
Comment (mattam82) [inline tactics/class_tactics.ml]: Yes, I certainly got mixed up in my rebase.

File: CHANGES (hunk 1 above)
Comment (mattam82) [inline CHANGES]: Yes.

File: theories/Numbers/NatInt/NZGcd.v (hunk 3 above)
Comment (mattam82) [inline theories/Numbers/NatInt/NZGcd.v]: Lemma divide_1_l : forall n, (1 | n).
Lemma divide_0_r : forall n, (n | 0).

divide_1_l applies to any "1" as divide is a relation that can be used for rewriting. divide_0_r applys to any n.

Comment (silene) [inline theories/Numbers/NatInt/NZGcd.v]: So you are saying that, if the goal had been `a|b -> c|d`, it would have been changed into `0|b -> 1|d`, right? I agree that it is incredibly dumb.

Still, it makes sense to me to have these two lemmas in a hint database. Wouldn't it be better to just remove the "Rewrite" part of the "Hint"?

File: tactics/class_tactics.ml (hunk 2 above)
Comment (mattam82) [inline tactics/class_tactics.ml]: Ah no, solve_instantiation_s_problem is set above. However I notice that it still calls V85.eauto  here which should rather be a switch depending on the compatibility version.

File: theories/Numbers/NatInt/NZGcd.v (hunk 3 above)
Comment (mattam82) [inline theories/Numbers/NatInt/NZGcd.v]: Probably even worse, it would try to rewrite to 0|0 -> 0|0. Now I see your point, they do make sense as Hint Resolves. @letouzey do you think that was just a typo?

File: tactics/class_tactics.ml (hunk 2 above)
Comment (silene) [inline tactics/class_tactics.ml]: You know you are doing something wrong when you have two 27-char identifiers with only a 1-char difference hidden in a place that the brain is known to ignore...

Comment (mattam82) [inline tactics/class_tactics.ml]: Right. I'll think of a better name.

Comment (mattam82) [inline tactics/class_tactics.ml]: Thanks @silene  for spotting this, I also moved to the standard Hook interface instead of using global references.

File: engine/proofview.ml [hunk 4]
```diff
@@ -588,6 +588,13 @@ let shelve =
   InfoL.leaf (Info.Tactic (fun () -> Pp.str"shelve")) >>
   Shelf.modify (fun gls -> gls @ initial)
 
+let shelve_goals l =
+  let open Proof in
+  Comb.get >>= fun initial ->
+  let comb = CList.filter (fun g -> not (CList.mem g l)) initial in
+  Comb.set comb >>
+  InfoL.leaf (Info.Tactic (fun () -> Pp.str"shelve_goals")) >>
+  Shelf.modify (fun gls -> gls @ l)
```
Comment (aspiwack) [inline engine/proofview.ml]: Is this handled correctly? I'm afraid there will be goals which are both in the focus context and the shelf. If that's the case, I don't think everything will work fine.

File: tactics/class_tactics.ml [hunk 5]
```diff
@@ -312,355 +532,764 @@ let make_resolve_hyp env sigma st flags only_classes pri decl =
...
+
+  let merge_failures x y =
+    match x, y with
+    | _, ReachedLimit
+      | ReachedLimit, _ -> ReachedLimit
+    | NotApplicable, NotApplicable -> NotApplicable
+
+  let or_tac (x : 'a tac) (y : 'a tac) : 'a tac =
+    { skft = fun sk fk gls -> x.skft sk
+      (fun f -> y.skft sk (fun f' -> fk (merge_failures f f')) gls) gls }
```
Comment (aspiwack) [inline tactics/class_tactics.ml]: I'm curious: why do you still need this `'a tac` type?

**Comment by aspiwack** [comment]
I find it a bit sad that this tactic would be confined to the solving of typeclasses. It would be nice if there was an `*auto*` tactic which uses bteauto as a backend and has the same default hint bases as the actual `auto`.

Not much to comment otherwise. How did the conversion to the new tactic engine go?

File: engine/proofview.ml (hunk 4 above)
Comment (mattam82) [inline engine/proofview.ml]: I'm getting this list of shelved_goals from with_shelf, so I expect they can't be both in the focus context and this list, is that correct?

File: tactics/class_tactics.ml (hunk 5 above)
Comment (mattam82) [inline tactics/class_tactics.ml]: This is the code of 8.5 that is kept for compatibility and porting purposes.

**Comment by mattam82** [comment]
That's the plan, after the merge I will try to see if I can simply rebind auto and eauto to this implementation while maintaining compatibility. Note the tactic "typeclasses eauto" can already be called with other hint databases than typeclass_instances.

The conversion went very well, there was almost everything already there in Proofview, and documented. So, cheers to you!

File: engine/proofview.ml (hunk 4 above)
Comment (aspiwack) [inline engine/proofview.ml]: I don't know. But as per the documentation of `shelve_goals` you can give it goals which are in the focus context but not focused. After these last line, unless I'm mistaken, these goals will be in two places at once, which isn't supposed to happen.

Comment (mattam82) [inline engine/proofview.ml]: Ah, I see what you mean now, it should check that all the goals that are shelved are in the focus indeed. I'll work on that.
